US08604055B2
Step (iii): Synthesis of 6-(cyclopentylmethyl-ethyl-amino)-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-carbaldehyde
A suspension of 6-chloro-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-carbaldehyde (5 g, 0.023 mol) and potassium carbonate (9.9 g, 0.0717 mol) in DMF (75 mL) was stirred for 20 min at RT. Cyclopentylmethyl ethyl amine (4.25 g, 33.0 mmol) was then added and the reaction was refluxed for 8 h. After cooling the reaction to RT, water (500 mL) was added to the reaction mixture and extracted with ethyl acetate (3×400 mL) and the combined organic layers were dried and concentrated. The residue was purified by silica gel (100-200 mesh) column chromatography. Elution with 10% ethyl acetate in hexanes gave the pure product as a colorless, gummy mass (yield: 76%).

reactant | 6-chloro-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-carbaldehyde | 0.023 mol, 5 g | ClC1=C(C=C2C(=N1)N(N=C2C)C)C=O | C9H8ClN3O
reactant | potassium carbonate | 0.0717 mol, 9.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | Cyclopentylmethyl ethyl amine | 33.0 mmol, 4.25 g | C1(CCCC1)CNCC | C8H17N
reactant | water | 500 mL | O | H2O
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | 6-(cyclopentylmethyl-ethyl-amino)-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-carbaldehyde | yield: 76% | C1(CCCC1)CN(C1=C(C=C2C(=N1)N(N=C2C)C)C=O)CC | C17H24N4O
